### PR TITLE
Add `Attribute` and `TypeAttr` inductive types

### PR DESCRIPTION
**Pull request by math-fehr**
These two types are used to represent attributes and types in the IR, respectively. This is not the final design, as they should be extensible and not require to recompile the whole codebase whenever a new attribute or type is added. However, this is a first step to at least be able to represent attributes and types in the IR.

Similar to xDSl, I merged Attribute and Type into a single type, so that we can write functions that can both operate on attributes and types without having to duplicate code.

Currently, `TypeAttr` is defined as `{attr : attr.isType}`.

### CODE REVIEW

File: Veir/IR/Attribute.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+  A data structure that represents compile-time information in the IR.
+  Attributes are used either as type annotations for SSA values, or
+  as extra information stored in operations.
+-/
+inductive Attribute
+| integerType (bitwidth : Nat)
+/--
+  An attribute from an unknown dialect.
+-/
+| unregistered (value : String) (isType : Bool)
```
Comment (tobiasgrosser) [inline Veir/IR/Attribute.lean]:
```suggestion
/- An attribute from an unknown dialect. -/
| unregistered (value : String) (isType : Bool)
```

This breaks the flow less. Or even `-- An attribute` at the end of the `unregistered` line.

**Review by tobiasgrosser — APPROVED** [review]
Can we use a coercion, instead of the `toType` maybe? I guess, @ineol's input would be useful here as well beyond the usual review from @luisacicolini.

**Comment by math-fehr** [comment]
I just wanted to try something, since anyway we should probably wait Monday for merging this.
Now, we create for each attribute a different structure (which will help us having methods for them). So when we create an `IntegerType`, we can directly have a coercion to both a TypeAttr or an Attribute

File: Veir/IR/Attribute.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+
+  The `TypeAttr` definition is a subtype of `Attribute` that carries the additional
+  invariant that the attribute is a valid type annotation.
+
+  `TypeAttr` corresponds to `mlir::Type`, and `Attribute`s that are not
+  `TypeAttr`s correspond to an `mlir::Attribute` (as attributes and types are
+  completely disjoint in MLIR). The reason for this lack of separation in VeIR is
+  that merging both concepts into a single `Attribute` type allows to define
+  functions that can work with both types and attributes without needing to define
+  separate functions for each case.
```
Comment (luisacicolini) [inline Veir/IR/Attribute.lean]: nit: maybe an example of two mlir functions working with a type and an attribute (and how they live in veIR) would clarify?

File: Veir/IR/Attribute.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+-/
+
+namespace Veir
+public section
+
+/--
+  The definition of `!builtin.integer`.
+  It is an integer type with a given bitwidth.
```
Comment (luisacicolini) [inline Veir/IR/Attribute.lean]:
```suggestion
  A `!builtin.integer` is an integer type with a given bitwidth.
```

Comment (luisacicolini) [reply Veir/IR/Attribute.lean]: (I find this style of docstring slightly clearer but feel free to ignore)

File: Veir/IR/Attribute.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+-/
+def isType (attr : Attribute) : Bool :=
+  match attr with
+  | .integerType _ => true
+  | .unregisteredAttr attr => attr.isType
+
+@[simp, grind =]
+theorem isType_integerType type : (integerType type).isType = true := by rfl
+@[simp, grind =]
+theorem isType_unregistered unregistered : (unregisteredAttr unregistered).isType = unregistered.isType := by rfl
```
Comment (luisacicolini) [inline Veir/IR/Attribute.lean]: this line feels a bit too long?

File: Veir/Rewriter/Basic.lean [hunk 5]
```diff
@@ -380,7 +380,7 @@ theorem Rewriter.initOpRegions_inBounds_mono (ptr : GenericPtr) :
     ptr.InBounds ctx → ptr.InBounds (initOpRegions ctx opPtr regions n opPtrInBounds hregions hctx hn) := by
   induction n generalizing ctx <;> simp only [initOpRegions] <;> grind
 
-def Rewriter.initOpResults (ctx: IRContext) (opPtr: OperationPtr) (resultTypes: Array MlirType) (index: Nat := 0) (hop : opPtr.InBounds ctx)
+def Rewriter.initOpResults (ctx: IRContext) (opPtr: OperationPtr) (resultTypes: Array TypeAttr) (index: Nat := 0) (hop : opPtr.InBounds ctx)
```
Comment (luisacicolini) [inline Veir/Rewriter/Basic.lean]: line seems long

File: Veir/PatternRewriter/Basic.lean [hunk 6]
```diff
@@ -142,7 +142,7 @@ theorem addUsersInWorklist_same_ctx :
   simp [addUsersInWorklist]
 
 def createOp (rewriter: PatternRewriter) (opType: OpCode)
-    (resultTypes: Array MlirType) (operands: Array ValuePtr) (blockOperands: Array BlockPtr) (regions: Array RegionPtr) (properties: UInt64)
+    (resultTypes: Array TypeAttr) (operands: Array ValuePtr) (blockOperands: Array BlockPtr) (regions: Array RegionPtr) (properties: UInt64)
```
Comment (luisacicolini) [inline Veir/PatternRewriter/Basic.lean]: line seems long
